US07435837B2
(±)-{[5-chloro-7-(2,5-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.090 g, 67%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[5-chloro-7-(2,5-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.175 g, 0.39 mmol) and methylamine (0.120 g, 3.9 mmol). mp 189-191° C.

reactant | (±)-[5-chloro-7-(2,5-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.39 mmol, 0.175 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC(=C2)F)F)Cl | C22H17ClF2O4S
reactant | methylamine | 3.9 mmol, 0.120 g | CN | CH5N
product | (±)-{[5-chloro-7-(2,5-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | ClC=1C=C(C2=C(CC(O2)CNC)C1)C1=C(C=CC(=C1)F)F | C16H14ClF2NO
